US07435815B2
[(2-Methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid
prepared by reaction of N-(2-methoxy-phenyl)-2-methyl-benzenesulfonamide with tert-butyl bromoacetate

reactant | N-(2-methoxy-phenyl)-2-methyl-benzenesulfonamide | COC1=C(C=CC=C1)NS(=O)(=O)C1=C(C=CC=C1)C | C14H15NO3S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | [(2-Methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C16H17NO5S
